* d:\serializer_lvds_dvr\lvdr\lvdr.cir

.include LVDS_Drvr.sub
* u6  vocm ic
.ic v(vocm)=2.5
x1 net-_x1-pad1_ din din_bar vob voa vocm net-_x1-pad7_ LVDS_Drvr
v3 net-_x1-pad1_ gnd  dc 5
v4 net-_x1-pad7_ gnd  dc 0.4
v1  din gnd pulse(0 5 0.1n 0.1n 0.1n 10n 20n)
v2  din_bar gnd pulse(5 0 0.1n 0.1n 0.1n 10n 20n)
* u4  voa plot_v1
* u3  vob plot_v1
* u1  din plot_v1
* u2  din_bar plot_v1
* u5  vocm plot_v1
* u6  vocm ic
.tran 0.1e-09 300e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

plot v(din)  v(din_bar)  v(vob)  v(voa)  

.endc
.end
