* d:\serializer_lvds_dvr\piso\piso.cir

* u5  net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u10-pad1_ madhuri_piso
* u8  clk load i9 gnd i7 gnd net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ adc_bridge_6
* u9  i5 gnd i3 i2 i1 i0 net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ adc_bridge_6
v1  clk gnd pulse(0 5 0.1n 0.1n 0.1n 5n 10n)
v2  load gnd pulse(0 5 0.1n 0.1n 0.1n 30n 150n)
v3  i3 gnd pulse(5 0 0.1n 0.1n 0.1n 150n 300n)
v4  i2 gnd pulse(0 5 0.1n 0.1n 0.1n 150n 300n)
v5  i1 gnd pulse(5 0 0.1n 0.1n 0.1n 150n 300n)
v6  i0 gnd pulse(0 5 0.1n 0.1n 0.1n 150n 300n)
* u1  clk plot_v1
* u4  load plot_v1
* u3  i3 plot_v1
* u6  i2 plot_v1
* u2  i1 plot_v1
* u7  i0 plot_v1
* u11  din plot_v1
v9  i5 gnd pulse(0 5 0.1n 0.1n 0.1n 150n 300n)
v8  i7 gnd pulse(0 5 0.1n 0.1n 0.1n 150n 300n)
v7  i9 gnd pulse(5 0 0.1n 0.1n 0.1n 150n 300n)
* u12  i9 plot_v1
* u13  i7 plot_v1
* u14  i5 plot_v1
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ madhuri_buffer
* u15  din_bar plot_v1
* u16  net-_u10-pad2_ net-_u10-pad3_ din din_bar dac_bridge_2
a1 [net-_u5-pad1_ ] [net-_u5-pad2_ ] [net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ ] [net-_u10-pad1_ ] u5
a2 [clk load i9 gnd i7 gnd ] [net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ ] u8
a3 [i5 gnd i3 i2 i1 i0 ] [net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ ] u9
a4 [net-_u10-pad1_ ] [net-_u10-pad2_ ] [net-_u10-pad3_ ] u10
a5 [net-_u10-pad2_ net-_u10-pad3_ ] [din din_bar ] u16
* Schematic Name:                             madhuri_piso, NgSpice Name: madhuri_piso
.model u5 madhuri_piso(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_6, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_6, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             madhuri_buffer, NgSpice Name: madhuri_buffer
.model u10 madhuri_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u16 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-03 300e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

plot v(load)   v(clk)+6   v(din_bar)+12   v(din)+18  v(i9)+60  v(i7)+54  v(i5)+48   v(i3)+42  v(i2)+36  v(i1)+30   v(i0)+24
.endc
.end
