* d:\serializer_lvds_dvr\serializer_lvds\serializer_lvds.cir

.include LVDS_Drvr.sub
* u16  vocm ic
.ic v(vocm)=2.5
* u2  net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u11-pad7_ net-_u11-pad8_ net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ net-_u13-pad1_ madhuri_piso
* u13  net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ madhuri_buffer
* u17  net-_u13-pad2_ net-_u13-pad3_ din din_bar dac_bridge_2
* u10  clk load i9 gnd i7 gnd net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ adc_bridge_6
* u11  i5 gnd i3 i2 i1 i0 net-_u11-pad7_ net-_u11-pad8_ net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ adc_bridge_6
v1  clk gnd pulse(0 5 0.1n 0.1n 0.1n 5n 10n)
v2  load gnd pulse(0 5 0.1n 0.1n 0.1n 30n 150n)
v5  i9 gnd pulse(0 5 0.1n 0.1n 0.1n 150n 300n)
v6  i7 gnd pulse(0 5 0.1n 0.1n 0.1n 150n 300n)
v7  i5 gnd pulse(5 0 0.1n 0.1n 0.1n 150n 300n)
v8  i3 gnd pulse(5 0 0.1n 0.1n 0.1n 150n 300n)
v9  i2 gnd pulse(0 5 0.1n 0.1n 0.1n 150n 300n)
v3  i1 gnd pulse(0 5 0.1n 0.1n 0.1n 150n 300n)
v4  i0 gnd pulse(5 0 0.1n 0.1n 0.1n 150n 300n)
* u3  clk plot_v1
* u5  load plot_v1
* u7  i9 plot_v1
* u8  i7 plot_v1
* u1  i0 plot_v1
* u4  i1 plot_v1
* u6  i2 plot_v1
* u9  i3 plot_v1
* u12  i5 plot_v1
x1 net-_x1-pad1_ din din_bar vob voa vocm net-_x1-pad7_ LVDS_Drvr
v10 net-_x1-pad1_ gnd  dc 5
v11 net-_x1-pad7_ gnd  dc 0.4
* u14  din plot_v1
* u15  din_bar plot_v1
* u18  voa plot_v1
* u19  vob plot_v1
* u16  vocm ic
a1 [net-_u10-pad7_ ] [net-_u10-pad8_ ] [net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ net-_u11-pad7_ net-_u11-pad8_ net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ ] [net-_u13-pad1_ ] u2
a2 [net-_u13-pad1_ ] [net-_u13-pad2_ ] [net-_u13-pad3_ ] u13
a3 [net-_u13-pad2_ net-_u13-pad3_ ] [din din_bar ] u17
a4 [clk load i9 gnd i7 gnd ] [net-_u10-pad7_ net-_u10-pad8_ net-_u10-pad9_ net-_u10-pad10_ net-_u10-pad11_ net-_u10-pad12_ ] u10
a5 [i5 gnd i3 i2 i1 i0 ] [net-_u11-pad7_ net-_u11-pad8_ net-_u11-pad9_ net-_u11-pad10_ net-_u11-pad11_ net-_u11-pad12_ ] u11
* Schematic Name:                             madhuri_piso, NgSpice Name: madhuri_piso
.model u2 madhuri_piso(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             madhuri_buffer, NgSpice Name: madhuri_buffer
.model u13 madhuri_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u17 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_6, NgSpice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_6, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.1e-09 300e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(din)   v(load)+6  v(clk)+12  v(i0)+18  v(i1)+24  v(i2)+30  v(i3)+36  v(i5)+42  v(i7)+48  v(i9)+54

plot v(din)+5  v(din_bar)+5  v(voa)  v(vob)

.endc
.end
